US09062015B2
FS109: 4-[2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-4-yl]piperazine-1-carboxylic acid tert-butyl ester
202 mg (0.68 mmol) of 4-(2-chloropyridin-4-yl)piperazine-1-carboxylic acid tert-butyl ester, 256 mg (0.81 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane and 187 mg (1.36 mmol) of potassium carbonate are dissolved in 6 ml of acetonitrile and 650 μl of water. The reaction mixture is degassed a number of times, 78 mg (0.07 mmol) of tetrakis(triphenylphosphine)palladium are added under nitrogen atmosphere, the mixture is irradiated in the microwave at 120° C. for 90 min, subsequently diluted with water and extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is purified by column chromatography on RP silica gel.

reactant | 4-(2-chloropyridin-4-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 202 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC=C1)Cl | C14H20ClN3O2
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.81 mmol, 256 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
reactant | potassium carbonate | 1.36 mmol, 187 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | water | 650 μl | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 78 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-4-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C28H39N3O2
